US06331538B1
2-(4-Hydroxy-anilino)-4,5-difluoro-benzoic Acid
Using General Method 1, the reaction of 2.5 M solution of n-BuLi in hexanes (29 mL, 73 mmol), diisopropylamine (9.5 mL, 68 mmol), 4-hydroxyaniline (1.85 g, 17 mmol), and 2,4,5-trifluorobenzoic acid (3 g, 17 mmol) provided 4.5 g of the crude title compound.

reactant | n-BuLi | [Li]CCCC
reactant | diisopropylamine | 68 mmol, 9.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-hydroxyaniline | 17 mmol, 1.85 g | OC1=CC=C(N)C=C1 | C6H7NO
reactant | 2,4,5-trifluorobenzoic acid | 17 mmol, 3 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
product | 2-(4-Hydroxy-anilino)-4,5-difluoro-benzoic Acid | 4.5 g | OC1=CC=C(NC2=C(C(=O)O)C=C(C(=C2)F)F)C=C1 | C13H9F2NO3
